US06831186B2
A solution of 1,1-dimethylethyl [[(2S,3R) 3-(1,3-dihydroxypropyl)-1,4-dioxaspiro[4,5]dec-2-yl]methoxy]acetate (50 g, 138 mmol) in acetone (350 mL) was treated with a solution of periodate (50 g, 235 mmol, 1.7 eq) in water (1.2 L). The reaction mixture was stirred vigorously under nitrogen and monitored by TLC. After about 4 hours, the reaction was complete by TLC analysis. Acetone was removed under reduced pressure without heating. The reaction mixture was extracted with ethyl acetate (3×500 mL). The combined organic layers were dried and concentrated under reduced pressure without heating to give 40 g of 1,1-dimethylethyl [[(2S,3S) 3-formyl-1,4-dioxaspiro[4,5]dec-2-yl]methoxy]acetate as a clear oil: [α]D=-1.142 (10.147 mg/cc in MeOH); 1H NMR (CDCl3) δ 1.38 (m, 2H), 1.42 (s, 9H), 1.61 (m, 8H), 1.73 (m, 2H), 3.52 (dd, 1H), 3.72 (dd,1H), 3.88 (s, 2H), 4.38 (dd, 1H), 4.52 (m, 1H), 9.62 (s, 1H) ppm.

reactant | 1,1-dimethylethyl [[(2S,3R) 3-(1,3-dihydroxypropyl)-1,4-dioxaspiro[4,5]dec-2-yl]methoxy]acetate | 138 mmol, 50 g | OC(CCO)[C@@H]1[C@@H](OC2(O1)CCCCC2)COCC(=O)OC(C)(C)C | C18H32O7
reactant | periodate | 235 mmol, 50 g, 1.7 eq | I(=O)(=O)(=O)[O-]
solvent | acetone | 350 mL | CC(=O)C | C3H6O
solvent | water | 1.2 L | O | H2O
product | 1,1-dimethylethyl [[(2S,3S) 3-formyl-1,4-dioxaspiro[4,5]dec-2-yl]methoxy]acetate | 40 g | C(=O)[C@@H]1[C@@H](OC2(O1)CCCCC2)COCC(=O)OC(C)(C)C | C16H26O6
